US08497293B2
A mixture of 2-(methanesulfonyloxy)-butyronitrile (449 mg, 2.75 mmol), 2-methyl-3-trifluoromethylphenol (440 mg, 2.5 mmol), potassium carbonate (432 mg, 3.13 mmol) and potassium iodide (42 mg, 0.25 mmol) in acetonitrile (20 ml) was stirred overnight at 80° C. The mixture was shaken between tBuOMe and water, washed with NaCl (aq. satd) and the ethereal phase dried with MgSO4 and evaporated. The crude product was chromatographed on silica with EtOAc and hexane to give 2-(2-methyl-3-trifluoromethyl-phenoxy)-butyronitrile. 1H-NMR (CDCl3) 1.20 t, 3H; 2.15 dt, 2H; 2.36 s, 3H; 4.75, t, 2H; 7.17, d, 1H; 7.28, t, 1H; 7.37 d, 1H.

reactant | 2-(methanesulfonyloxy)-butyronitrile | 2.75 mmol, 449 mg | CS(=O)(=O)OC(C#N)CC | C5H9NO3S
reactant | 2-methyl-3-trifluoromethylphenol | 2.5 mmol, 440 mg | CC1=C(C=CC=C1C(F)(F)F)O | C8H7F3O
reactant | potassium carbonate | 3.13 mmol, 432 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 mmol, 42 mg | [I-].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | tBuOMe | C(C)(C)(C)OC | C5H12O
product | 2-(2-methyl-3-trifluoromethyl-phenoxy)-butyronitrile | CC1=C(OC(C#N)CC)C=CC=C1C(F)(F)F | C12H12F3NO
